US07560568B2
2-[5,6-Bis(methyloxy)-1H-benzimidazol-1-yl]-4-({[2-(trifluoromethyl)phenyl]-methyl}oxy)-1,3-thiazole-5-carboxamide
The title compound was prepared in a manner analogous to the procedure described above for the preparation of 2-(1H-benzimidazol-1-yl)-4-({[2-(trifluoromethyl)phenyl]methyl}oxy)-1,3-thiazole-5-carboxamide, using the following materials: 2-chloro-4-({[2-(trifluoromethyl)phenyl]methyl}oxy)-1,3-thiazole-5-carboxamide (0.146 g, 0.434 mmol), 5,6-dimethoxybenzimidazole (0.0851 g, 0.478 mmol), K2CO3 (0.0720 g, 0.521 mmol) and DMF (4 mL). Flash chromatography afforded 0.114 g (55%) of the title compound. 1H NMR (400 MHz, DMSO-d6) δ 8.75 (s, 1H), 7.87-7.73 (m, 4H), 7.61 (m, 1H), 7.61 (s, 1H), 7.37 (s, 1H), 6.94 (br s, 1H), 5.85 (s, 2H), 3.83 (s, 3H), 3.72 (s, 3H). MS m/z 479 (m+1).

reactant | 2-(1H-benzimidazol-1-yl)-4-({[2-(trifluoromethyl)phenyl]methyl}oxy)-1,3-thiazole-5-carboxamide | N1(C=NC2=C1C=CC=C2)C=2SC(=C(N2)OCC2=C(C=CC=C2)C(F)(F)F)C(=O)N | C19H13F3N4O2S
reactant | 2-chloro-4-({[2-(trifluoromethyl)phenyl]methyl}oxy)-1,3-thiazole-5-carboxamide | 0.434 mmol, 0.146 g | ClC=1SC(=C(N1)OCC1=C(C=CC=C1)C(F)(F)F)C(=O)N | C12H8ClF3N2O2S
reactant | 5,6-dimethoxybenzimidazole | 0.478 mmol, 0.0851 g | COC1=CC2=C(N=CN2)C=C1OC | C9H10N2O2
reactant | K2CO3 | 0.521 mmol, 0.0720 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-[5,6-Bis(methyloxy)-1H-benzimidazol-1-yl]-4-({[2-(trifluoromethyl)phenyl]-methyl}oxy)-1,3-thiazole-5-carboxamide | 0.114 g, 55% | COC1=CC2=C(N(C=N2)C=2SC(=C(N2)OCC2=C(C=CC=C2)C(F)(F)F)C(=O)N)C=C1OC | C21H17F3N4O4S
